US07790709B2
Preparation of (E)-3-{4-[2-(4-Methyl-piperazin-1-yl)-2-oxo-ethyl]-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl}acrylic acid hydrochloride
A suspension of (E)-3-{4-[2-(4-Methyl-piperazin-1-yl)-2-oxo-ethyl]-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl}acrylic acid tert-butyl ester (1.12 g, 2.61 mmol) in CH2Cl2 (10 mL) was treated with TFA (10 mL). After stirring at room temperature for 35 min, the solution was concentrated in vacuo. The resulting oil was treated with anhydrous HCl (20 mL of a 4.0 M solution in dioxane, 80 mmol) and the resulting mixture was sonicated for 1 h. The mixture was diluted with Et2O (50 mL) and sonicated for 10 min. The solid was isolated by filtration, washed with Et2O and dried under vacuum at 50° C. for 4 h to give the title compound (1.72 g, quantitative) as an off-white solid: 1H NMR (500 MHz, DMSO-d6) δ 11.60 (br s, 1H), 11.09 (br s, 1H), 8.82 (s, 1H), 8.47 (s, 1H), 7.66 (d, J=19.9 Hz, 1H), 6.65 (d, J=16.1 Hz, 1H), 4.43-4.40 (m, 2H), 4.31 (br s, 2H), 3.95-3.91 (m, 1H), 3.84 (br s, 2H), 3.56 (s, 4H), 3.42 (br s, 2H), 3.23-2.97 (m, 2H), 2.76 (d, J=4.1 Hz, 3H); MS (ESI) m/e 374 (M+H)+.

reactant | (E)-3-{4-[2-(4-Methyl-piperazin-1-yl)-2-oxo-ethyl]-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl}acrylic acid tert-butyl ester | 2.61 mmol, 1.12 g | C(C)(C)(C)OC(\C=C\C1=CC2=C(NC(CN(C2)CC(=O)N2CCN(CC2)C)=O)N=C1)=O | C22H31N5O4
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-{4-[2-(4-Methyl-piperazin-1-yl)-2-oxo-ethyl]-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl}acrylic acid hydrochloride | 1.72 g | Cl.CN1CCN(CC1)C(CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O)=O | InChI=1S/C18H23N5O4.ClH/c1-21-4-6-23(7-5-21)16(25)12-22-10-14-8-13(2-3-17(26)27)9-19-18(14)20-15(24)11-22;/h2-3,8-9H,4-7,10-12H2,1H3,(H,26,27)(H,19,20,24);1H/b3-2+;
